US04294845
A mixture of 9.85 g of sodium hydride as a 50% oil suspension, 100 ml of dioxane, 0.73 g of dibenzo-18-courone-6 was stirred and a solution of 11.31 g of dichloroacetic acid in 120 ml of dioxane was added thereto at room temperature with stirring. Then, a solution of 14.550 g of 4-chloro-2-hydroxy-α-methyl-α-phenyl benzene methanol in 200 ml dioxane was added thereto dropwise and the mixture was then refluxed for 6 hours at 95° C. and then returned to room temperature. The reaction mixture was poured into ice and 10 ml of 2 N sodium hydroxide were added thereto. The aqueous phase was washed with 300 ml of ether, was acidified with 20 ml of concentrated hydrochloric acid and then was extracted 3 times with 250 ml of ether. The ether extracts were washed twice with 100 ml of water and the acid of the organic phase was extracted twice with 250 ml of a 5% aqueous solution of sodium bicarbonate. The aqueous phase was washed with 100 ml of ether and was acidified again with 50 ml of concentrated hydrochloric acid. The acid was again extracted 4 times with 250 ml of ether, and the decanted organic phase was washed 3 times with 100 ml of water, dried over magnesium sulfate, treated with activated carbon, filtered and evaporated to dryness under reduced pressure to obtain 19.5 g of 7-chloro-4-methyl-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid (mixture of two racemates of diastereoisomers).

reactant | sodium hydride | 9.85 g | [H-].[Na+]
reactant | dichloroacetic acid | 11.31 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | 4-chloro-2-hydroxy-α-methyl-α-phenyl benzene methanol | 14.550 g | ClC1=CC(=C(C=C1)C(O)(C1=CC=CC=C1)C)O | C14H13ClO2
reactant | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-4-methyl-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid | 19.5 g | ClC=1C=CC2=C(OC(OC2(C2=CC=CC=C2)C)C(=O)O)C1 | C16H13ClO4
